US04871620
Surface-active dispersing agents in the form of oxyalkylated esters of unsaturated higher fatty acids are preferred. Oxymethylated and/or oxyethylated esters are especially preferred. In this, case, a glyceride type ester is preferred. This ester can be a mono-, di- and tri-glyceride. The oxyalkylated forms of the esters which can be used in accordance with the invention are obtained, in particular, from esters of unsaturated higher fatty acids which can undergo an oxyalkylation, particularly an oxyethylation. Particularly useful fatty acids are oleic acid, elaidic acid, linoleic acid and ricinoleic acid. The oxyethylated glyceride of ricinoleic acid, which can be advantageously used in the form of ethoxylated castor oil is of particular value for the purposes of the present invention. Castor oil consists of 80 to 85% of the glyceride of ricinoleic acid, and in addition the glycerides of oleic (7%), linoleic (3%), palmitic (2%) and stearic (1%) acids. Ethoxylated castor oil is marked by a good solubility in fatty acids, polar solutions and water. The oxyethylated castor oil may be that produced commercially by BASF (trademark: Emulphor EL). This castor oil is a yellow oil, having a freezing point below +20° C., and which is soluble in fatty acids, waxes, castor oil, polar solvents (e.g., trichloroethylene, xylene) and water.

reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | elaidic acid | C(CCCCCCC\C=C\CCCCCCCC)(=O)O | C18H34O2
reactant | linoleic acid | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | ricinoleic acid | C(CCCCCCC\C=C/C[C@H](O)CCCCCC)(=O)O | C18H34O3
reactant | ethoxylated castor oil | C(C(CCl)OC(=O)N)Cl | C4H7Cl2NO2
reactant | linoleic | CCCCC/C=C\C/C=C\CCCCCCCC(=O)O | C18H32O2
solvent | water | O | H2O
product | Emulphor | CCCCCCCC/C=C\CCCCCCCCOCCO | C20H40O2
